US05538976
5-[Bis(4-cyanophenyl)amino]pyrimidine
Starting compounds: 5-[(4-cyanophenyl)amino]pyrimidine and 4-fluorobenzonitrile

reactant | 5-[(4-cyanophenyl)amino]pyrimidine | C(#N)C1=CC=C(C=C1)NC=1C=NC=NC1 | C11H8N4
reactant | 4-fluorobenzonitrile | FC1=CC=C(C#N)C=C1 | C7H4FN
product | 5-[Bis(4-cyanophenyl)amino]pyrimidine | C(#N)C1=CC=C(C=C1)N(C=1C=NC=NC1)C1=CC=C(C=C1)C#N | C18H11N5
